US04588749
N-(2-(4-Methylphenoxy)-1-methylethyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
The title compound was prepared in the manner described in Example 3 using 2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine and (4-methylphenoxy)propan-2-one. The residual oil was chromatographed on Kieselgel 60. Elution with 5% methanol-chloroform gave the title compound m.p. 86-96 (heptane). τ(CDCl3) 8.9 (3H, d, J=6 Hz), 7.7 (3H, s), 6.7-7.6 (5H, m, 2H disappears with D2O) 6.0-6.5 (2H, m), 5.3 (1H, m), 3.25 (2H, d, J=9 Hz), 2.95 (2H, d, J=9 Hz), 2.3-2.65 (4H, m).

reactant | 2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | OC(CN)C1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
reactant | (4-methylphenoxy)propan-2-one | CC1=CC=C(OCC(C)=O)C=C1 | C10H12O2
product | N-(2-(4-Methylphenoxy)-1-methylethyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | CC1=CC=C(OCC(C)NCC(C2=CC(=CC=C2)C(F)(F)F)O)C=C1 | C19H22F3NO2
